US09079866B2
5-(2′,3,4′-Trifluorobiphenyl-4-yl)pyrazin-2-amine
The title compound was prepared using conditions analogous to those used to make Example 6 utilizing 5-(4-bromo-2-fluorophenyl)pyrazin-2-amine and (2,4-difluorophenyl)boronic acid. MS (ESI): mass calcd. for C16H10F3N3, 301.08; m/z found, 302.0 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.43-8.35 (m, 1H), 8.03 (d, J=1.4, 1H), 7.97 (m, 1H), 7.73-7.65 (m, 1H), 7.54-7.35 (m, 3H), 7.26-7.20 (m, 1H), 6.74 (s, 2H).

reactant | 5-(4-bromo-2-fluorophenyl)pyrazin-2-amine | BrC1=CC(=C(C=C1)C=1N=CC(=NC1)N)F | C10H7BrFN3
reactant | (2,4-difluorophenyl)boronic acid | FC1=C(C=CC(=C1)F)B(O)O | C6H5BF2O2
product | 5-(2′,3,4′-Trifluorobiphenyl-4-yl)pyrazin-2-amine | FC1=C(C=CC(=C1)F)C1=CC(=C(C=C1)C=1N=CC(=NC1)N)F | C16H10F3N3
